US08314100B2
1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine (Compound 66)
Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate and 1-(3-methoxyphenyl)piperazine were reacted by the same way with the example 64 to obtain the titled compound (yield, 80%). 1H NMR (300 MHz, CDCl3): δ 3.28 (s, 4H), 3.80-3.87 (m, 9H), 4.11 (s, 4H), 6.45-6.49 (m, 2H), 6.56 (d, J=8.4 Hz, 1H), 6.91 (s, 1H), 7.04-7.36 (m, 3H), 7.53-7.62 (m, 1H).

reactant | Ethyl N-(2,6-dimethoxyquinoxalin-3-yl)carbamate | COC1=NC2=CC=C(C=C2N=C1NC(OCC)=O)OC | C13H15N3O4
reactant | 1-(3-methoxyphenyl)piperazine | COC=1C=C(C=CC1)N1CCNCC1 | C11H16N2O
product | 1-[(2,6-Dimethoxyquinoxalin-3-yl)aminocarbonyl]-4-(3-methoxyphenyl)piperazine | 80% | COC1=NC2=CC=C(C=C2N=C1NC(=O)N1CCN(CC1)C1=CC(=CC=C1)OC)OC | C22H25N5O4
